US07462738B2
The crude ester prepared in example 1, is added to a mixture of ethyl acetate and toluene, and heated to 80° C. (range 400 to 100° C.) until dissolution. The solution is cooled to 2° C. (range 0° to 20° C.) to get a yellowish solid of (S)-3-(1,3,3-trimethylbicyclo[2.2.1]heptan-2-yl)carbonyl)methyl)-5-methylhexanoic acid (Fenchyl ester), which is filtered from the mixture.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-methylhexanoic acid | CC(CCCC(=O)O)C | C7H14O2
